US05591891
Thioacetic acid (9.3 cc) and potassium carbonate (7.5 g) in water (150 cc) are added under nitrogen atmosphere to a solution of (R)-2-bromo-3-phenylpropanoic acid (25 g) in 1M sodium hydroxide (110 cc). The solution is stirred for 15 hours at a temperature close to 20° C. After evaporation under reduced pressure, the residue is taken up with water and ethyl acetate. The aqueous phase is separated, acidified to pH=2 and then extracted with ethyl acetate. After washing, the organic phase is dried over sodium sulphate. After filtration and concentration under reduced pressure, (S)-2-acetylthio-3-phenylpropanoic acid (18.5 g) is obtained with a yield of 75% in the form of an oil having the following characteristics: Rf =0.49 [hexane/ethyl acetate/acetic acid (6:4:0.5 by volume)].

reactant | Thioacetic acid | 9.3 cc | C(C)(=S)O | C2H4OS
reactant | potassium carbonate | 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-2-bromo-3-phenylpropanoic acid | 25 g | Br[C@@H](C(=O)O)CC1=CC=CC=C1 | C9H9BrO2
solvent | water | 150 cc | O | H2O
solvent | sodium hydroxide | 1M, 110 cc | [OH-].[Na+]
product | (S)-2-acetylthio-3-phenylpropanoic acid | 18.5 g, yield of 75% | C(C)(=O)S[C@H](C(=O)O)CC1=CC=CC=C1 | C11H12O3S
